US07598249B2
4-(3,4-Dibromo-benzyl)-piperazine-1-carboxylic acid (3-fluoro-phenyl)-amide
A solution of 1-(3,4-dibromo-benzyl)-piperazine (167 mg) in DCM (2 mL) was treated with 3-fluorophenyl isocyanate (0.07 mL). After 16 h, the resulting mixture was chromatographed, giving the title compound as a white foam (188 mg). 1H NMR (400 MHz, CDCl3): 7.61 (d, J=2.0 Hz, 1H), 7.56 (d, J=8.1 Hz, 1H), 7.31-7.12 (m, 3H), 7.01-6.97 (m, 1H), 6.75-6.99 (m, 1H), 6.47 (br m, 1H), 3.51-3.47 (m, 4H), 3.45 (s, 2H), 2.48-2.43 (m, 4H).

reactant | 1-(3,4-dibromo-benzyl)-piperazine | 167 mg | BrC=1C=C(CN2CCNCC2)C=CC1Br | C11H14Br2N2
reactant | 3-fluorophenyl isocyanate | 0.07 mL | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Dibromo-benzyl)-piperazine-1-carboxylic acid (3-fluoro-phenyl)-amide | 188 mg | FC=1C=C(C=CC1)NC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)Br)Br | C18H18Br2FN3O
